US07713994B2
To a solution of 4-(2-dimethylamino-vinyl)-1-thiophen-3-yl-1H-pyridin-2-one (3.8 mmol) in 50% aqueous tetrahydrofuran (130 mL) is added sodium periodate (2.4 g, 11 mmol). After 17 hours of stirring at room temperature, the reaction mixture is filtered. The filtrate is washed 3× with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide 1-thiophen-3-yl-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde as a yellow powder (0.27 g, 34% over 2 steps).

reactant | 4-(2-dimethylamino-vinyl)-1-thiophen-3-yl-1H-pyridin-2-one | 3.8 mmol | CN(C=CC1=CC(N(C=C1)C1=CSC=C1)=O)C | C13H14N2OS
reactant | sodium periodate | 11 mmol, 2.4 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | 1-thiophen-3-yl-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde | S1C=C(C=C1)N1C(C=C(C=C1)C=O)=O | C10H7NO2S
